US07470680B2
tert-butyl 4-(2-oxo-1,2,4,5-tetrahydropyrido[2,3-d][1,3]diazepin-3-yl)piperidine-1-carboxylate.
tert-Butyl 4-(2-(2-nitropyridin-3-yl)ethylamino)piperidine-1-carboxylate (0.561 g, 1.601 mmol) was dissolved in methanol (60 mL). A catalytic amount of 10% palladium on carbon was added to the mixture. Reaction vessel was charged with 2 atm hydrogen gas. Reaction shook at room temperature for 16 hours. The reaction mixture was filtered through a pad of celite twice. Filtrate was concentrated in vacuo. Residue was dissolved in acetonitrile (100 mL). Triethylamine (0.672 ml, 4.82 mmol) was added to the mixture followed by N,N′-carbonyldiimidazole (0.32 g, 1.97 mmol. 1.2 equiv). After 1.5 hours more N,N′-carbonyldiimidazole (0.32 g, 1.97 mmol, 1.2 equiv) was added. Reaction stirred at room temperature for 16 hours. Additional N,N′-carbonyldiimidazole (0.32 g, 1.97 mmol) and triethylamine (0.672 ml, 4.82 mmol) were added and the clear solution was stirred at room temperature for 20 hours. Additional N,N′-carbonyldiimidazole (0.32 g, 1.97 mmol) and triethylamine (350 μL, 251 mmol) were added to the reaction mixture. The clear solution was stirred at room temperature for 68 hours. All solvents were removed by roto-vap. Silica gel chromatography eluting 2M ammonia in methanol-dichloromethane afforded the title compound as off white solid in 92% yield. 1H NMR (500 MHz, CHLOROFORM-D) δ ppm 8.20 (d, J=4.88 Hz, 1 H) 7.92 (s, 1 H) 7.33 (d, J=7.63 Hz, 1 H) 6.82 (dd, J=7.48, 4.73 Hz, 1 H) 4.35-4.50 (m, 1 H) 4.19 (bs, 2 H) 3.37-3.48 (m, 2 H) 2.87-2.92 (m, 2 H) 2.71-2.83 (m, 2 H) 1.72 (d, J=10.38 Hz, 2 H) 1.50-1.63 (m, 2 H) 1.44 (s, 9 H).

reactant | tert-Butyl 4-(2-(2-nitropyridin-3-yl)ethylamino)piperidine-1-carboxylate | 1.601 mmol, 0.561 g | [N+](=O)([O-])C1=NC=CC=C1CCNC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N4O4
reactant | hydrogen | [H][H] | H2
reactant | Triethylamine | 4.82 mmol, 0.672 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 4.82 mmol, 0.672 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 251 mmol, 350 μL | C(C)N(CC)CC | C6H15N
reactant | methanol | 60 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | tert-butyl 4-(2-oxo-1,2,4,5-tetrahydropyrido[2,3-d][1,3]diazepin-3-yl)piperidine-1-carboxylate | 92% yield | O=C1N(CCC2=C(N1)N=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C18H26N4O3
